US08580146B2
8-(4-Bromophenyl)-1,4-dioxaspiro(4.5)dec-7-ene (s71) (30.0 g), 4-ethoxy-2,3-difluorophenylboronic acid (s70) (24.6 g), potassium phosphate (K3PO4; 64.7 g), dichlorobistriphenylphosphine palladium (II) (Pd(Ph3P)2Cl2; 2.1 g) and 1,4-dioxane (300 ml) were placed in a reaction vessel under an atmosphere of nitrogen, and heated to reflux for 2 hours. After the reaction mixture had been cooled to 25° C., it was treated with water, and the aqueous layer was extracted with toluene. The combined organic layers were washed with water, and then dried over anhydrous magnesium sulfate. The solution was concentrated under reduced pressure, and the residue was purified by column chromatography with toluene as an eluent and silica gel as a stationary phase powder. Pd/C (1.5 g) was added to the purified product, and the mixture was stirred at room temperature under a hydrogen atmosphere until hydrogen absorption had ceased. After the reaction had been completed, Pd/C was removed, and then solvent was distilled off. The residue was purified by column chromatography with toluene as an eluent and silica gel as a stationary phase powder, and then by recrystallization from a mixed solvent of toluene and heptane (toluene:heptane=1:1 by volume) to give 8-(4′-ethoxy-2′,3′-difluoro-(1,1′-biphenyl)-4-yl)-1,4-dioxaspiro(4.5)decane (s72) (28.8 g). The yield based on the compound (s71) was 75.7%.

reactant | 8-(4-Bromophenyl)-1,4-dioxaspiro(4.5)dec-7-ene | 30.0 g | BrC1=CC=C(C=C1)C1=CCC2(OCCO2)CC1 | C14H15BrO2
reactant | 4-ethoxy-2,3-difluorophenylboronic acid | 24.6 g | C(C)OC1=C(C(=C(C=C1)B(O)O)F)F | C8H9BF2O3
reactant | potassium phosphate | 64.7 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 8-(4′-ethoxy-2′,3′-difluoro-(1,1′-biphenyl)-4-yl)-1,4-dioxaspiro(4.5)decane | 28.8 g | C(C)OC1=C(C(=C(C=C1)C1=CC=C(C=C1)C1CCC2(OCCO2)CC1)F)F | C22H24F2O3
